US07851473B2
(1) 2-(2,4-Dichlorophenyl)-2-oxoethyl thiocyanate
A solution of 2-bromo-1-(2,4-dichlorophenyl)ethanone (7.09 g, 26.5 mmol) and potassium thiocyanate (2.57 g, 26.5 mmol) in ethanol (70 ml) was stirred at 80° C. for 2 hours. After cooling to room temperature, water (70 ml) was poured to the reaction mixture, and crystals were collected by filtration and washed with water to give 5.97 g (91.7%) of the desired product as a solid.

reactant | 2-bromo-1-(2,4-dichlorophenyl)ethanone | 26.5 mmol, 7.09 g | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | potassium thiocyanate | 26.5 mmol, 2.57 g | [S-]C#N.[K+]
reactant | water | 70 ml | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-(2,4-Dichlorophenyl)-2-oxoethyl thiocyanate | 5.97 g, 91.7% | ClC1=C(C=CC(=C1)Cl)C(CSC#N)=O | C9H5Cl2NOS
